### PR TITLE
[Merged by Bors] - feat(Data/Set): +3 lemmas about `Set.inclusion`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Basic.lean [hunk 1]
```diff
@@ -2831,13 +2831,25 @@ theorem inclusion_injective (h : s ⊆ t) : Injective (inclusion h)
...
 theorem eq_of_inclusion_surjective {s t : Set α} {h : s ⊆ t}
     (h_surj : Function.Surjective (inclusion h)) : s = t := by
   refine' Set.Subset.antisymm h (fun x hx => _)
   obtain ⟨y, hy⟩ := h_surj ⟨x, hx⟩
   exact mem_of_eq_of_mem (congr_arg Subtype.val hy).symm y.prop
 #align set.eq_of_inclusion_surjective Set.eq_of_inclusion_surjective
 
+@[simp]
+theorem inclusion_le_inclusion [Preorder α] {s t : Set α} (h : s ⊆ t) {x y : s} :
+    inclusion h x ≤ inclusion h y ↔ x ≤ y := Iff.rfl
```
Comment (ADedecker) [inline Mathlib/Data/Set/Basic.lean:2847]: Should this be a `Set.inclusion` version of [Subtype.orderEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Hom/Basic.html#Subtype.orderEmbedding)?

**Review by jcommelin — COMMENTED** [review]
I'm about as undecided as Anatole. Feel free to merge like this, or to slightly refactor.

bors d+

**Comment by urkud** [comment]
Let's add a bundled version when we need it.
bors merge
